US07511041B2
To a solution of 2-(1H-imidazol-2-yl)aniline (0.06 g. 0.38 mmol) in methanol (3 ml) was added cyanogen bromide (0.05 g, 0.45 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting precipitate was collected by filtration, washed with acetone, and dried under reduced pressure to give imidazo[1,2-c]quinazolin-5-amine hydrobromide (0.06 g, 61% yield) as a white solid.

reactant | 2-(1H-imidazol-2-yl)aniline | 0.38 mmol, 0.06 g | N1C(=NC=C1)C1=C(N)C=CC=C1 | C9H9N3
reactant | cyanogen bromide | 0.45 mmol, 0.05 g | N#CBr | CBrN
reactant | water | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | imidazo[1,2-c]quinazolin-5-amine hydrobromide | 0.06 g, 61% yield | Br.N=1C=CN2C(=NC=3C=CC=CC3C21)N | InChI=1S/C10H8N4.BrH/c11-10-13-8-4-2-1-3-7(8)9-12-5-6-14(9)10;/h1-6H,(H2,11,13);1H
